US05789591
3a. N-(2-cyclopropylethylidene)cyclohexylamine
To a solution of cyclopropylacetonitrile (7.0 ml, 82 mmol) in 200 ml of methylene chloride/hexanes (1:1) at -78° C. was added 90.0 ml of 1M DIBAL in hexanes (90 mmol) dropwise over 20 minutes. After complete addition, the solution was warmed to 0° C. and stirred for 2 hours. At this time, 140 ml of ethyl acetate was added at 0° C. and the solution warmed to room temperature. To the solution was added 140 ml of saturated NH4Cl and 250 ml of 1N H2SO4. The mixture was diluted with ether and shaken vigorously until the organic layer became clear. The organic layer was then washed with saturated NaHCO3. To this crude aldehyde solution was added 55 g of K2CO3 and 9.4 ml of cyclohexylamine (82 mmol) at room temperature and the reaction stirred for 48 hours. The reaction was filtered and evaporated and the residue distilled under reduced pressure to give the title compound. MS 166 (M+H)+ ; 1H NMR (CDCl3) δ0.12-0.19 (m, 2H), 0.46-0.53 (m, 2H), 0.76-0.91 (m, 1H), 0.95-1.90 (m, 10H) , 2.12 (dd, 2H, J=5.2 Hz, J=7.4 Hz), 2.93 (m, 1H), 7.71 (t, 1H, J=5.1 Hz).

reactant | cyclopropylacetonitrile | 82 mmol, 7.0 ml | C1(CC1)CC#N | C5H7N
reactant | DIBAL | 1M, 90.0 ml | CC(C)C[AlH]CC(C)C
reactant | NH4Cl | 140 ml | [NH4+].[Cl-]
reactant | H2SO4 | 1N, 250 ml | OS(=O)(=O)O | H2O4S
reactant | K2CO3 | 55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclohexylamine | 82 mmol, 9.4 ml | C1(CCCCC1)N | C6H13N
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-cyclopropylethylidene)cyclohexylamine | C1(CC1)CC=NC1CCCCC1 | C11H19N
